US07538223B2
(2S,4R)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-4-(3-fluoro-5-nitrophenoxy)pyrrolidine-1-carboxylate.
To a 0° C. solution of (2S,4R)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-4-hydroxypyrrolidine-1-carboxylate (1 equiv) in DMF (0.5 M) was added NaH (1.3 equiv) as a solid. After stirring for 30 minutes at 0° C., 3,5-difluoronitrobenzene (1.2 equiv) was added by syringe. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction was quenched by the addition of water, and the mixture was diluted with EtOAc. The organic layer was washed four times with water and once with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification by flash chromatography (10-20% EtOAc/Hexanes) provided the title compound in 66% yield.

reactant | (2S,4R)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-4-hydroxypyrrolidine-1-carboxylate | 1 equiv | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C16H33NO4Si
reactant | NaH | 1.3 equiv | [H-].[Na+]
reactant | 3,5-difluoronitrobenzene | 1.2 equiv | FC=1C=C(C=C(C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | DMF | 0.5 M | CN(C)C=O | C3H7NO
product | (2S,4R)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-4-(3-fluoro-5-nitrophenoxy)pyrrolidine-1-carboxylate | 66% yield | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(C[C@@H](C1)OC1=CC(=CC(=C1)[N+](=O)[O-])F)C(=O)OC(C)(C)C | C22H35FN2O6Si
